US07919628B2
Thionyl chloride (0.50 mL) was added dropwise to dry MeOH (2 mL) at −10° C. After stirring at −10° C. for 1 h, a 0° C. solution of (R)-2-amino-2-methyl-butyric acid (0.068 g) in MeOH (1 mL) was added, and the mixture was allowed to warm to room temperature, and was stirred for an additional 24 h. The reaction mixture was concentrated in vacuo, repeatedly diluted with toluene (50 mL) and reconcentrated in vacuo to give 0.076 g (quant. yield) of (R)-2-amino-2-methyl-butyric acid methyl ester hydrochloride as a light yellow solid.

reactant | Thionyl chloride | 0.50 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (R)-2-amino-2-methyl-butyric acid | 0.068 g | N[C@@](C(=O)O)(CC)C | C5H11NO2
reactant | MeOH | 1 mL | CO | CH4O
reactant | MeOH | 2 mL | CO | CH4O
product | (R)-2-amino-2-methyl-butyric acid methyl ester hydrochloride | 0.076 g, quant. yield | Cl.COC([C@](CC)(C)N)=O | InChI=1S/C6H13NO2.ClH/c1-4-6(2,7)5(8)9-3;/h4,7H2,1-3H3;1H/t6-;/m1./s1
